* C:\Users\cdude\University of Cape Town\EEE3088F - General\Assignment2\PowerSim\Power Submodule.asc
M§Q1 Input_Voltage N002 N004 N004 BSC082N10LS
L1 N004 N005 33µ Rser=15m
C1 Output_Voltage 0 150µ x3 Rser=0.1
R1 Output_Voltage N010 511K
R2 N010 0 36.5K
C2 N003 N004 0.1µ
C3 0 N001 0.1µ
C4 N014 0 4.7n Rser=10K Cpar=100p
C5 N013 0 0.01µ
V1 Input_Voltage 0 48
M§Q2 N004 N008 0 0 BSC082N10LS
R_Simulated_Load Output_Voltage 0 10
R3 N005 Output_Voltage 6m
R4 N009 0 30.1K
C6 N005 Output_Voltage 1n
R5 N006 N001 511K
R6 Input_Voltage N007 1Meg
R7 N007 0 18.7K
XU1 N007 NC_01 N005 Output_Voltage N013 N010 N014 0 MP_02 N001 N011 MP_03 0 N006 MP_04 MP_05 N009 N012 0 N002 N004 N003 MP_06 N008 MP_07 N016 MP_08 N015 MP_09 Input_Voltage MP_10 Output_Voltage MP_11 Input_Voltage MP_12 N001 NC_13 N001 0 LTC3895
R8 0 N012 75K
M§Q3 Input_Voltage N015 N016 N016 Si4482DY
C7 0 N016 4.7µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\cdude\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m
.lib LTC3895.sub
.backanno
.end
